US06620841B1
To a suspension of sodium hydride (60% in mineral oil, 4.8 g, 120 mmol) in DMF (100 ml) was added dropwise at an ice bath temperature a solution of 2-formylpyrrole (9.5 g, 100 mmol) in DMF (10 ml). The mixture was stirred for 15 minutes at room temperature and cooled again. To the mixture was added dropwise a solution of benzylbromide (20.5 g, 120 mmol) in DMF (10 ml). The reaction mixture was stirred for 60 minutes at room temperature and poured to ice-water, and extracted with ethylacetate. The extract was washed with water and dried. The solvent was evaporated to give 1-benzyl-2-formylpyrrole (18.0 g) as an oil quantitatively.

reactant | sodium hydride | 120 mmol, 4.8 g | [H-].[Na+]
reactant | 2-formylpyrrole | 100 mmol, 9.5 g | C(=O)C=1NC=CC1 | C5H5NO
reactant | benzylbromide | 120 mmol, 20.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-2-formylpyrrole | 18.0 g | C(C1=CC=CC=C1)N1C(=CC=C1)C=O | C12H11NO
